US05994274
10 g of dimethyl 2-chloro4,6-dimethylphenylmalonate according to Example (VI-1) were initially introduced and treated successively with 20 ml of methanol and 6.8 g of KOH dissolved in 9.1 ml of water. After an hour, the mixture was diluted with a further 20 ml of solvent (MeOH/water 1:1). The mixture was heated at reflux for 10 h, then cooled and concentrated. The residue which remained was taken up in a little water and washed once with toluene. The aqueous phase was then diluted further with water, added to the same amount of ether and cooled to about -10° C. It was acidified with concentrated HCl (pH 1), and the organic phase was separated off and reextracted a further 1 or 2 times. The combined organic phases were dried and concentrated. The residue was crystallized from toluene and afforded 7.6 g of 2-chloro-4,6-dimethylphenylmalonic acid having a melting point of 174 to 176° C. (decomposition).

reactant | dimethyl 2-chloro4,6-dimethylphenylmalonate | 10 g | ClC1=C(C(=CC(=C1)C)C)C(C(=O)OC)C(=O)OC | C13H15ClO4
reactant | methanol | 20 ml | CO | CH4O
reactant | KOH | 6.8 g | [OH-].[K+]
solvent | water | 9.1 ml | O | H2O
product | 2-chloro-4,6-dimethylphenylmalonic acid | 7.6 g | ClC1=C(C(=CC(=C1)C)C)C(C(=O)O)C(=O)O | C11H11ClO4
